US04141899
4-(2-furyl)-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (386/1372)
Operating as in Example 14, 12 g of 4-(2-furyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (oil) are obtained from 18.4 g of histamine dihydrochloride and 16.6 ml of furfural. A solution of 1.89 g of 4-(2-furyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine and 1.1 g of methyl isothiocyanate in 20 ml of acetonitrile is refluxed for 5 h. The solution is cooled and filtered: 1.54 g of the title compound, m.p. 200°, are collected.

reactant | 4-(2-furyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 1.89 g | O1C(=CC=C1)C1NCCC2=C1N=CN2 | C10H11N3O
reactant | methyl isothiocyanate | 1.1 g | CN=C=S | C2H3NS
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-(2-furyl)-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | O1C(=CC=C1)C1N(CCC2=C1N=CN2)C(NC)=S | C12H14N4OS
